US04933355
5-{1-[2-(3-p-Bromophenylureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetic acid
Following a procedure similar to that described in Example 1, the desired compound was prepared from 4 g of ethyl 2-(3-p-bromophenylureido)thiazol-4-ylglyoxylate, 2 g of rhodanine-3-acetic acid, 1 g of ammonium chloride, 1 ml of 28% v/v aqueous ammonia and 50 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-(3-p-bromophenylureido)thiazol-4-ylglyoxylate | 4 g | BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H12BrN3O4S
reactant | rhodanine-3-acetic acid | 2 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-{1-[2-(3-p-Bromophenylureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetic acid | BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O)=O | C19H15BrN4O6S3
